US09085555B2
3-Aminomethyl-5-chloro-4-fluoro-N-methyl-benzamide
was prepared according to Scheme C3 (step B) from (3-chloro-2-fluoro-5-methylcarbamoyl-benzyl)-carbamic acid tert-butyl ester (99 mg, 0.3 mmol) and TFA (0.5 mL) in CH2Cl2. MS (LC-MS): 217.0 [M]+; tR (HPLC conditions c): 2.39 min.

reactant | (3-chloro-2-fluoro-5-methylcarbamoyl-benzyl)-carbamic acid tert-butyl ester | 0.3 mmol, 99 mg | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)C(NC)=O)Cl)F)=O | C14H18ClFN2O3
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-Aminomethyl-5-chloro-4-fluoro-N-methyl-benzamide | NCC=1C=C(C(=O)NC)C=C(C1F)Cl | C9H10ClFN2O
